US06762180B1
(10) 4-[N-(3-trifluoroacetylamino-propyl)-N-methylsulphonyl-amino]-nitrobenzene
Prepared from 4-[N-(3-amino-propyl)-N-methylsulphonyl-amino]-nitrobenzene and trifluoroacetic acid anhydride

reactant | 4-[N-(3-amino-propyl)-N-methylsulphonyl-amino]-nitrobenzene | NCCCN(S(=O)(=O)C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H15N3O4S
reactant | trifluoroacetic acid anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-[N-(3-trifluoroacetylamino-propyl)-N-methylsulphonyl-amino]-nitrobenzene | FC(C(=O)NCCCN(S(=O)(=O)C)C1=CC=C(C=C1)[N+](=O)[O-])(F)F | C12H14F3N3O5S
